US04064277
A definite amount of a sample, whose β-glycosidase activity is desired to be measured, is sufficiently homogenized at a pH of 6.5 to 7.0 with an appropriate amount of water (which amount is usually 5 to 15 times the weight of the sample in a dry state). The resulting mixture is adjusted to a pH of 5.0, and then centrifuged to obtain a supernatant, which is a crude enzyme solution. To 0.5 ml. of the crude enzyme solution is added 2.0 ml. (0.005 mole) of p-nitrophenyl-βD-glucopyranoside, and the resulting mixture is subjected to incubation at 30° C. for a definite period of time (e.g. 10 to 30 minutes), and then charged with 2.5 ml. (0.5 mole) of Na2CO3 to terminate enzyme reaction. The reaction liquid is measured in absorbance (O.D.) at 420 mμ, and, from this O.D. value is substracted the absorbance (O.D.) of a blank (a liquid prepared by adding 2.5 ml. (0.5 mole) of Na2CO 3 and the same substrate as above to 0.5 ml. of the above-mentioned enzyme solution, and then subjecting the resulting mixture to the same incubation as above) to obtain a ΔO.D. value. From this ΔO.D. value, the amount of p-nitrophenol formed by the enzyme reaction is calculated. In case the said ΔO.D. value is zero or substantially zero, the amount of formed p-nitrophenol is zero, and thus it is understood that β-glycosidase has been inactivated. This activity measurement is carried out according to the modified method of J. E. Citti et al. [Journal of Bacteriology, Vol. 89, page 937(1965)].

reactant | p-nitrophenyl-βD-glucopyranoside | 0.005 mole | C1=CC(=CC=C1[N+](=O)[O-])OC2C(C(C(C(O2)CO)O)O)O | C12H15NO8
reactant | Na2CO3 | 0.5 mole | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
